US07179817B2
methyl 2-chloro-5-[3-(2-methoxy-4-(5-phenylpentyloxy)phenyl)propanoylamino]benzoate
To a mixture of 3-[2-methoxy-4-(5-phenylpentyloxy)phenyl]propanoic acid (342 mg), 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride (288 mg), 1-hydroxybenzotriazole-1-hydrate (153 mg) and dimethylformamide (5 mL) was added methyl 2-chloro-5-aminobenzoate (265 mg) and triethylamine (0.7 mL). To the reaction mixture was added dimethylaminopyridine (50 mg). The reaction mixture was stirred at room temperature overnight. 1N hydrochloric acid was added to the reaction mixture, which was extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium hydrogen carbonate and brine, dried over an anhydrous sodium sulfate and concentrated. The obtained residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to give the title compound (300 mg) having the following physical data.

reactant | 3-[2-methoxy-4-(5-phenylpentyloxy)phenyl]propanoic acid | 342 mg | COC1=C(C=CC(=C1)OCCCCCC1=CC=CC=C1)CCC(=O)O | C21H26O4
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride | 288 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | methyl 2-chloro-5-aminobenzoate | 265 mg | ClC1=C(C(=O)OC)C=C(C=C1)N | C8H8ClNO2
reactant | dimethylaminopyridine | 50 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | triethylamine | 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | methyl 2-chloro-5-[3-(2-methoxy-4-(5-phenylpentyloxy)phenyl)propanoylamino]benzoate | 300 mg | ClC1=C(C(=O)OC)C=C(C=C1)NC(CCC1=C(C=C(C=C1)OCCCCCC1=CC=CC=C1)OC)=O | C29H32ClNO5
